US09403773B2
4-Fluoro-2-nitro-1-propylsulfanylbenzene (6.7 g, 31.1 mmol) was dissolved in a mixed solvent of ethanol (40 ml) and water (4 ml). Ammonium chloride (17 g, 0.32 mol) was added to the resulting mixture, and zinc powder (20 g, 0.31 mol) were added little by little. The resulting mixture was then stirred at room temperature for 1 hour. Insoluble matter was removed by filtration, and the filtrate was concentrated under reduced pressure to thereby obtain 5.8 g of oily brown 5-fluoro-2-propylsulfanylaniline (yield: 93%).

reactant | 4-Fluoro-2-nitro-1-propylsulfanylbenzene | 31.1 mmol, 6.7 g | FC1=CC(=C(C=C1)SCCC)[N+](=O)[O-] | C9H10FNO2S
reactant | Ammonium chloride | 0.32 mol, 17 g | [Cl-].[NH4+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 4 ml | O | H2O
catalyst | zinc | 0.31 mol, 20 g | [Zn] | Zn
product | 5-fluoro-2-propylsulfanylaniline | 5.8 g, yield: 93% | FC=1C=CC(=C(N)C1)SCCC | C9H12FNS
